US06339093B1
7-Chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline hydrochloride
The title compound, MS: m/e=295.3 (M+H+), was prepared from 4,7-dichloroquinoline and 1,2,3,4-tetrahydroisoquinoline.

reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 7-Chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline hydrochloride | Cl.ClC1=CC=C2C(=CC=NC2=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C18H15ClN2.ClH/c19-15-5-6-16-17(11-15)20-9-7-18(16)21-10-8-13-3-1-2-4-14(13)12-21;/h1-7,9,11H,8,10,12H2;1H
